US05488115
A solution of 280 mg (5 mmol) of potassium hydroxide in 10 ml of ethanol were added to a solution of 1.37 g (3.8 mmol) of 3(S)-azido-4-phenyl-1-(p-toluenesulphonyloxy)-2(S)-butanol in 50 ml of ethanol and the mixture was stirred at room temperature for 1 hour. The mixture was then evaporated to dryness and the residue was partitioned between water and dichloromethane. The aqueous phase was back-extracted twice with dichloromethane. The organic phases were combined, dried over anhydrous magnesium sulphate and evaporated to give an oil which was purified by flash chromatography on silica gel using n-hexane/ethyl acetate (4:1) for the elution. There was obtained 0.47 g of 2(S)-[1(S)-azido-2-phenylethyl]oxirane: MS: m/e 189 [M]+.

reactant | potassium hydroxide | 5 mmol, 280 mg | [OH-].[K+]
reactant | 3(S)-azido-4-phenyl-1-(p-toluenesulphonyloxy)-2(S)-butanol | 3.8 mmol, 1.37 g | N(=[N+]=[N-])[C@H]([C@@H](COS(=O)(=O)C1=CC=C(C=C1)C)O)CC1=CC=CC=C1 | C17H19N3O4S
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2(S)-[1(S)-azido-2-phenylethyl]oxirane | 0.47 g | N(=[N+]=[N-])[C@@H](CC1=CC=CC=C1)[C@@H]1OC1 | C10H11N3O
